US07186773B2
After the inside of a 2-liter four-necked flask equipped with a magnetic stirrer, dropping funnel, 3-way cock and thermometer was replaced with nitrogen gas, the flask was charged with 117 ml (0.55 mol) of HN(Si(CH3)3)2 and 200 ml of TFE. After cooling in dry ice/acetone bath, 328 ml (0.525 mol) of 1.6 N hexane solution of n-BuLi was added dropwise over 45 minutes so that the solution temperature did not exceed −50° C. Further after stirring for 30 minutes, thereto was added dropwise over 45 minutes a solution prepared by dissolving, in 200 ml of THF, 136 g (0.5 mol) of benzoic acid (1,1,1,3,3,3-hexafluoro-2-propyl) obtained by usual preparation process so that the solution temperature did not exceed 50° C., followed by 30-minute stirring. 300 Gram of ice and 150 ml of concentrated hydrochloric acid were put in a 3-liter beaker, followed by stirring, and to the obtained slurry was added the reaction solution gradually. Then an organic layer was separated in the dropping funnel and water layer was extracted two times with 300 ml of n-hexane. The organic layer obtained by two extractions was washed with saturated brine, followed by drying with MgSO4, concentrating with an evaporator and refining by distillation under reduced pressure. Thereby 107.3 g of benzoic acid (1, 1,1,3,3-pentafluoro-2-propenyl) was synthesized (boiling point: 71° to 73° C./24 mmHg).

reactant | hexane | 0.525 mol, 1.6 N, 328 ml | CCCCCC | C6H14
reactant | n-BuLi | [Li]CCCC
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | benzoic acid | 0.5 mol, 136 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
